US08222266B2
Preparation 41: 4-[4-(2-Fluoro-phenyl)-2-oxo-2H-pyrimidin-1-yl]-butyraldehyde (Prep41)
To a solution of 4-(2-fluoro-phenyl)-1-(4-hydroxy-butyl)-1H-pyrimidin-2-one (80 mg, 0.30 mmol) in DCM (8 ml), the solution at 0° C., solid Dess Martin periodinane (380 mg, 0.61 mmol) was added portionwise. The mixture was stirred at room temperature for 1 hour. Na2S2O3 was added and the mixture was extracted with DCM; the organic layer was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography with ethyl acetate to give 50 mg of the title compound as a green solid (64% yield).

reactant | 4-(2-fluoro-phenyl)-1-(4-hydroxy-butyl)-1H-pyrimidin-2-one | 0.30 mmol, 80 mg | FC1=C(C=CC=C1)C1=NC(N(C=C1)CCCCO)=O | C14H15FN2O2
reactant | Dess Martin periodinane | 0.61 mmol, 380 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-Fluoro-phenyl)-2-oxo-2H-pyrimidin-1-yl]-butyraldehyde | 50 mg, 64% yield | FC1=C(C=CC=C1)C1=NC(N(C=C1)CCCC=O)=O | C14H13FN2O2
